US09447091B2
a) Ethyl 2-morpholinoacetate
To a solution of ethyl 2-chloroacetate (0.5 g, 5.74 mmol) in DMF (70 ml) at 10° C. were added K2CO3 (1.98 g, 14.34 mmol, 2.5 eq.) and 1-methylpiperazine (1.05 g, 8.6 mmol, 1.5 eq.) and the mixture was stirred at RT for 2 h. The mixture was quenched and extracted as in Intermediate Example 5(c). The solvent was distilled off and the crude residue was purified by column chromatography (60-120 silica gel, 40% ethyl acetate in hexane) to afford the product in 74% yield (0.74 g). LC-MS (ESI): Calculated mass: 173.2, Observed mass: 174.0 [M+H]+ (rt: 0.20 min).

reactant | ethyl 2-chloroacetate | 5.74 mmol, 0.5 g | ClCC(=O)OCC | C4H7ClO2
reactant | K2CO3 | 14.34 mmol, 1.98 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methylpiperazine | 8.6 mmol, 1.05 g, 1.5 eq. | CN1CCNCC1 | C5H12N2
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-morpholinoacetate | 74% yield | O1CCN(CC1)CC(=O)OCC | C8H15NO3
